US06235771B1
To a mixture of 4-bromocathechol (8.43 g) and potassium carbonate (15.4 g) in DMF (80 ml) was added at room temperature ethyl iodide (7.5 ml), and the mixture was stirred for 15 hours. To the mixture was added water, and the mixture was extracted with hexane. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure, and the residue purified with silica gel column chromatography (ethyl acetate/hexane=1:4) to give yellow oil of 4-bromo-1,2-diethoxybenzene (10.06 g).

reactant | 4-bromocathechol | 8.43 g | BrC=1C=C(C(O)=CC1)O | C6H5BrO2
reactant | potassium carbonate | 15.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 7.5 ml | C(C)I | C2H5I
reactant | water | O | H2O
reactant | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 4-bromo-1,2-diethoxybenzene | 10.06 g | BrC1=CC(=C(C=C1)OCC)OCC | C10H13BrO2
